US05004743
Step 1 Preparation of 2-methyl-5-phenylpyridine
To a 0° C. solution of 1.4 M MeLi in Et2O (35 mm) was added 5-phenylpyridine (4.65 g). The Et2O was distilled off almost completely and replaced by THF (15 cc) and the solution was refluxed for 1 hour. 25% aqueous NH4OAc (25 cc) was added and the mixture extracted with ethyl acetate (2×50 cc). The organic layer was washed with brine and the solvents removed in vacuo. The residue was purified by chromatography to afford the title compound. p.m.r. (CD3COCD3) δ 8.7 (d, 1H), 7.2-7.9 (m, 7H), 2.5 (s, 3H).

reactant | MeLi | 1.4 M | [Li]C
reactant | 5-phenylpyridine | 4.65 g | C1(=CC=CC=C1)C=1C=CC=NC1 | C11H9N
solvent | Et2O | CCOCC | C4H10O
product | 2-methyl-5-phenylpyridine | CC1=NC=C(C=C1)C1=CC=CC=C1 | C12H11N
